US06673789B2
Preparation 24: 5-Chloro-3-(phenoxymethyl)-2-pyridinamine
Sodium hydride (80% in oil, 124 mg, 4.1 mmol) was added portionwise to a solution of phenol (290 mg, 3.1 mmol) in anhydrous THF (15 ml). 5-Chloro-3-(chloromethyl)-2-pyridinamine.HCl (R. Herbert, D. G. Wibberley, J. Chem. Soc., 1969, 1504) (300 mg, 1.4 mmol) was then added and the reaction stirred at 50° C. for 3 h. After removal of THF in vacuo, the residue was partioned between diethyl ether and 1N NaOH. The aqueous phase was removed, extracted with diethyl ether and the combined organics washed with saturated brine, dried over MgSO4 and concentrated to an oil which upon triturating with hexane gave the title compound as a white solid (265 mg, 1.1 mmol):

reactant | Sodium hydride | 4.1 mmol, 124 mg | [H-].[Na+]
reactant | phenol | 3.1 mmol, 290 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 5-Chloro-3-(chloromethyl)-2-pyridinamine | ClC=1C=C(C(=NC1)N)CCl | C6H6Cl2N2
reactant | HCl | 1.4 mmol, 300 mg | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-Chloro-3-(phenoxymethyl)-2-pyridinamine | 1.1 mmol, 265 mg | ClC=1C=C(C(=NC1)N)COC1=CC=CC=C1 | C12H11ClN2O
